US04038396
An ice cold solution of 1 gram of 2-(2-aminophenyl)oxazolo[ 5,4-b]pyridine in 15 ml. of dry pyridine was treated with 1 gram of benzoyl chloride slowly. The reaction mixture was diluted with ice-water and stirred for 10 minutes and the resulting solid was collected on a filter and recrystallized from benzene to give 2-(2-benzoylaminophenyl)oxazolo[ 5,4-b]pyridine, m.p. 197°-198° C.

reactant | 2-(2-aminophenyl)oxazolo[ 5,4-b]pyridine | 1 gram | NC1=C(C=CC=C1)C=1OC2=NC=CC=C2N1 | C12H9N3O
reactant | benzoyl chloride | 1 gram | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(2-benzoylaminophenyl)oxazolo[ 5,4-b]pyridine | C(C1=CC=CC=C1)(=O)NC1=C(C=CC=C1)C=1OC2=NC=CC=C2N1 | C19H13N3O2
